US08791102B2
Step (a) Benzyl chloroformate (1.40 mL, 9.79 mmol) was added to a flask charged with (2S,4R)-1-tert-butyl 2-methyl 4-aminopyrrolidine-1,2-dicarboxylate hydrochloride salt (2.5 g, 8.9 mmol), DIEA (5.0 mL, 29 mmol), and THF (20 mL). The mixture was stirred for 5 minutes at ambient temperature and then quenched with saturated sodium bicarbonate (aq., 20 mL). The mixture was extracted with methylene chloride (40 mL) and the extract was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was diluted with methanol (30 mL) and 2N potassium hydroxide (10 mL, 20 mmol) and the mixture was stirred at ambient temperature for 3 hours. The reaction mixture then was concentrated to approximately one-half the volume and quenched with cold 1N hydrochloric acid (30 mL, 30 mmol). The mixture was extracted with methylene chloride (30 mL) and the extract dried over anhydrous sodium sulfate, filtered and concentrated to give (2S,4R)-4-(benzyloxycarbonylamino)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (2.51 g, 6.86 mmol) as a white solid.

reactant | Benzyl chloroformate | 9.79 mmol, 1.40 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | (2S,4R)-1-tert-butyl 2-methyl 4-aminopyrrolidine-1,2-dicarboxylate hydrochloride salt | 8.9 mmol, 2.5 g | Cl.N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC
reactant | DIEA | 29 mmol, 5.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium hydroxide | 20 mmol, 2N, 10 mL | [OH-].[K+]
reactant | hydrochloric acid | 30 mmol, 1N, 30 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2S,4R)-4-(benzyloxycarbonylamino)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 6.86 mmol, 2.51 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
